US08791102B2
Step (b) 4-Fluorobenzyl triphenylphosphine chloride (1 g, 2.46 mmol) in DMSO (2 mL) was added to a flask charged with sodium hydride (60% dispersion in oil, 124 mg, 3.10 mmol) and DMSO (2 mL). The reaction mixture was stirred at 70° C. for 3 hours and then (S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-oxopyrrolidine-2-carboxamide (0.11 g, 0.25 mmol) in DMSO (2 mL) was added. The mixture was stirred for 16 hours at 70° C. and then quenched with saturated ammonium chloride (aq., 10 mL). This mixture was extracted with ethyl acetate (20 mL) and the extract was washed with deionized water (10 mL). Product was purified from the mixture directly by column chromatography (EtOAc to EtOAc/MeOH (9:1)+1% NEt3) to give with (S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-4-(4-fluorobenzylidene)-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide (15 mg, 0.027 mmol, 11% yield) as an oil.

reactant | 4-Fluorobenzyl triphenylphosphine chloride | 2.46 mmol, 1 g | [Cl-].FC1=CC=C(CP(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | sodium hydride | 3.10 mmol, 124 mg | [H-].[Na+]
reactant | (S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-N-(4-(4-fluorophenoxy)phenyl)-4-oxopyrrolidine-2-carboxamide | 0.25 mmol, 0.11 g | N1(N=CN=C1)CC(=O)N1[C@@H](CC(C1)=O)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C21H18FN5O4
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-4-(4-fluorobenzylidene)-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide | 0.027 mmol, 15 mg, 11% yield | N1(N=CN=C1)CC(=O)N1[C@@H](CC(C1)=CC1=CC=C(C=C1)F)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C28H23F2N5O3
